US07432258B2
b) N-(3,4-Dichlorophenyl)-2-methylalanine lithium salt
A 50-mL round bottom flask equipped with a magnetic stirring bar was charged with ethyl N-(3,4-dichlorophenyl)-2-methylalaninate (790 mg, 2.9 mmol) and dissolved in 3 mL of THF. A solution of LiOH (132 mg, 5.8 mmol) dissolved in 1.0 mL of H2O was added and the mixture was stirred at room temperature for 24 h. The solvent was removed under reduced pressure. A total of 846 mg (90%) of N-(3,4-dichlorophenyl)-2-methylalanine as a yellow solid was recovered as the lithium salt, after drying under vacuum for 24 h. MS (ES) m/z 248 [M+H]+

reactant | ethyl N-(3,4-dichlorophenyl)-2-methylalaninate | 2.9 mmol, 790 mg | ClC=1C=C(C=CC1Cl)NC(C)(C(=O)OCC)C | C12H15Cl2NO2
reactant | LiOH | 5.8 mmol, 132 mg | [Li+].[OH-]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | H2O | 1.0 mL | O | H2O
product | N-(3,4-Dichlorophenyl)-2-methylalanine lithium salt | [Li+].ClC=1C=C(C=CC1Cl)NC(C)(C(=O)[O-])C | InChI=1S/C10H11Cl2NO2.Li/c1-10(2,9(14)15)13-6-3-4-7(11)8(12)5-6;/h3-5,13H,1-2H3,(H,14,15);/q;+1/p-1
